US07135486B1
2-(4-{2-Amino-6-[(2-amino-2-oxoethyl)sulfanyl]-3,5-dicyano-4-pyridinyl}-phenoxy)acetic acid
135 mg (0.316 mmol) of 2-[4-(2-amino-3,5-dicyano-6-sulfanyl-4-pyridinyl)-phenoxy]acetic acid N-methylmorpholinium salt together with 103.3 mg (0.474 mmol) of bromoacetamide and 106.1 mg (1.263 mmol) of NaHCO3 are stirred in 0.5 ml of DMF overnight. After filtration, the reaction solution is prepurified by preparative HPLC. The isolated fraction is reconcentrated under reduced pressure and the residue is purified by preparative thin-layer chromatography.

reactant | 2-[4-(2-amino-3,5-dicyano-6-sulfanyl-4-pyridinyl)-phenoxy]acetic acid N-methylmorpholinium salt | 0.316 mmol, 135 mg | C[NH+]1CCOCC1.NC1=NC(=C(C(=C1C#N)C1=CC=C(OCC(=O)[O-])C=C1)C#N)S
reactant | bromoacetamide | 0.474 mmol, 103.3 mg | BrCC(=O)N | C2H4BrNO
reactant | NaHCO3 | 1.263 mmol, 106.1 mg | C(=O)(O)[O-].[Na+]
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | 2-(4-{2-Amino-6-[(2-amino-2-oxoethyl)sulfanyl]-3,5-dicyano-4-pyridinyl}-phenoxy)acetic acid | NC1=NC(=C(C(=C1C#N)C1=CC=C(OCC(=O)O)C=C1)C#N)SCC(=O)N | C17H13N5O4S
